US05698391
Diethyl pyrrole-3,4-dicarboxylate (10 g, 47.39 mmol) was heated to reflux with hydrazine monohydrate (5 mL) in ethanol (50 mL) for 24 hours. After this time, the pale yellow precipitate formed was filtered, washed with methanol (2×20 mL), air dried, resuspended in anhydrous hydrazine (20 mL), and refluxed at 140° C. for 12 hours. The clear solution was concentrated under reduced pressure. The residue was dissolved in boiling water (70 mL), acidified (pH 4) with concentrated HCl and filtered. The crystalline solid was washed with cold water (2×25 mL), ethanol (2×20 mL) and ether (20 mL), and air dried to furnish 6.06 g (84%) of pyrrolo[4,5-d]pyridazin-4(5H),7(6H)-dione. To this product (6.04 g, 40 mmol) is added hexamethyldisilazane (HMDS, 15 mL) and chlorotrimethylsilane (TMSCl, 0.5 mL), and refluxed at 150° C. for 1 hour. Excess HMDS/TMSCl is removed under vacuum and the residue dried. A mixture of this silylated product and 2-deoxy-3,5-di-O-p-toluoyl-α-D-erythro-pentofuranosyl chloride is anhydrous chloroform is stirred at room temperature under argon. CuI is added to the solution and the slurry stirred at room temperature for 3 hours. The reaction is quenched by the addition of a saturated solution of soldium bicarbonate, stirred for 15 minutes and filtered through celite. The chloroform layer is separated, washed with with saturated NaCl solution, dried with magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography and eluted with ethyl acetate/hexanes (1:1). The product so obtained is dissolved in methanol, and sodium methoxide is added. The reaction mixture is stirred at room temperature, neutralized with Dowex-50H+ after 1 hour and filtered. The resin is washed with methanol and the combined filtrates concentrated under reduced pressure. The residue is dissolved in water, washed with chloroform and the aqueous layer freeze dried to afford the title compound.

reactant | Diethyl pyrrole-3,4-dicarboxylate | 47.39 mmol, 10 g | N1C=C(C(=C1)C(=O)OCC)C(=O)OCC | C10H13NO4
reactant | hydrazine monohydrate | 5 mL | O.NN
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | pyrrolo[4,5-d]pyridazin-4(5H),7(6H)-dione | 6.06 g, 84% | N1C=CC=2C(NNC(C21)=O)=O | C6H5N3O2
